US08486940B2
1-(1H-benzo[d]imidazol-6-yl)-5-(1-phenylpiperidin-4-yl)imidazolidin-2-one
The compound was synthesized starting from 1H-benzo[d]imidazol-5-amine (0.400 g, 3 mmol), 1-phenylpiperidine-4-carbaldehyde (0.570 g, 3 mmol), TMSCN (0.375 mL, 3 mmol), Pd/C (10%, 0.02 g), TEA 1.05 mL, 7.5 mmol), di-(imidazol-1-yl)methanone (0.730 g, 4.5 mmol) as described in method 2.

reactant | 1H-benzo[d]imidazol-5-amine | 3 mmol, 0.400 g | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 1-phenylpiperidine-4-carbaldehyde | 3 mmol, 0.570 g | C1(=CC=CC=C1)N1CCC(CC1)C=O | C12H15NO
reactant | TMSCN | 3 mmol, 0.375 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | di-(imidazol-1-yl)methanone | 4.5 mmol, 0.730 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
catalyst | Pd/C | 0.02 g | [Pd] | Pd
product | 1-(1H-benzo[d]imidazol-6-yl)-5-(1-phenylpiperidin-4-yl)imidazolidin-2-one | N1C=NC2=C1C=C(C=C2)N2C(NCC2C2CCN(CC2)C2=CC=CC=C2)=O | C21H23N5O
